US08476294B2
Stage 172.1.2 (5-Bromo-pyridin-3-yl)-cyclobutyl-amine
A mixture of 3-bromo-5-fluoropyridine (Frontier Scientific, Logan, USA, 5.63 mmol) and cyclobutylamine (Fluka, Buchs, Switzerland, 12.38 mmol) in NMP (8 ml) was heated under microwave irradiation for 1 h at 190° C. and for 5.5 h at 200° C. The reaction mixture was diluted with EtOAc and washed with saturated aqueous NaHCO3, with brine (3×), dried over Na2SO4, filtered, evaporated and dried under vacuum to give the title compound as an off-white solid. (HPLC: tR 2.31 min (Method A); M+H=227, 229 MS-ES)

reactant | 3-bromo-5-fluoropyridine | 5.63 mmol | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | cyclobutylamine | 12.38 mmol | C1(CCC1)N | C4H9N
solvent | NMP | 8 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-Bromo-pyridin-3-yl)-cyclobutyl-amine | BrC=1C=C(C=NC1)NC1CCC1 | C9H11BrN2
